US04128658
2[1-(4-bromobutyl)]furan (406 mg) and potassium phthalimide (370 mg) were stirred together at room temperature in dry dimethylformamide overnight. The solution was poured into ice-water and the resulting white solid filtered, dried and recrystallised from chloroform/petroleum ether (b.p. 60°-80°) to give 2-[4-(2-Furanyl)butyl]-1H-isoindole-1,3(2H)-dione as white microcrystals (430 mg) m.p. 61°-63°.

reactant | potassium phthalimide | 370 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-[4-(2-Furanyl)butyl]-1H-isoindole-1,3(2H)-dione | O1C(=CC=C1)CCCCN1C(C2=CC=CC=C2C1=O)=O | C16H15NO3
